US07659268B2
DMF (24 mL) was added to a flask containing 6-bromoisobenzofuran-1(3H)-one (1.00 g, 4.69 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.43 g, 5.63 mmol), potassium acetate (1.38 g, 14.1 mmol) and Pd(dppf)Cl2 (168 mg, 0.230 mmol). The mixture was stirred under N2 atmosphere at 80° C. overnight. The mixture was then stirred with ethyl acetate and water for 5 minutes before being filtered through Celite. The aqueous layer was washed with ethyl acetate and the combined organic layers were washed with H2O (×3), brine, dried (MgSO4) and concentrated. The residue was purified by column chromatography (0-50% ethyl acetate—hexanes) to yield 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isobenzofuran-1(3H)-one as a light grey solid (1.01 g, 83%). ESI-MS m/z calc. 260.1, found 261.1 (M+1)+. Retention time 1.54 minutes. 1H NMR (400 MHz, DMSO-d6) δ 8.04-8.01 (m, 2H), 7.71 (d, J=7.7 Hz, 1H), 5.45 (s, 2H), 1.32 (s, 12H).

reactant | DMF | 24 mL | CN(C)C=O | C3H7NO
reactant | 6-bromoisobenzofuran-1(3H)-one | 4.69 mmol, 1.00 g | BrC1=CC=C2COC(C2=C1)=O | C8H5BrO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 5.63 mmol, 1.43 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 14.1 mmol, 1.38 g | C(C)(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | 0.230 mmol, 168 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isobenzofuran-1(3H)-one | 1.01 g, 83% | CC1(OB(OC1(C)C)C1=CC=C2COC(C2=C1)=O)C | C14H17BO4
